US08110585B2
trans-N-{[2-(3-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}acetamide
To a solution of trans-N-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}acetamide (400 mg, 1.644 mmol) in acetonitrile (16 mL) was added xenon difluoride (306 mg, 1.808 mmol), and the mixture was stirred under nitrogen atmosphere at room temperature for 4.5 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=50/50→100/0), HPLC and TLC to give the title compound (24 mg, yield 6%).

reactant | trans-N-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}acetamide | 1.644 mmol, 400 mg | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CNC(C)=O | C14H17N3O
reactant | xenon difluoride | 1.808 mmol, 306 mg | [Xe](F)F | F2Xe
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(3-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}acetamide | 24 mg, yield 6% | FC=1N(N=C2C=CC=C(C12)[C@H]1[C@@H](C1)CNC(C)=O)C | C14H16FN3O
